US06465467B1
2-(4-Chlorophenoxy)ethyl 3-(3-amino-1-pyrrolidinyl)-2-pyrazinyl Ether
The title compound was prepared according to the procedure described in Example 4, Step 2, starting from 2-chloro-3-[2-(4-chlorophenoxy)ethoxy]pyrazine* (150 mg, 0.53 mmol) and 3-aminopyrrolidine (247 mg, 2.87 mmol) with the exception that a final extraction step between EtOAc and 5% aqueous NaOH was carried out. This gave 123 mg (69%) of the title product. Anal. (C16H19ClN4O2) H, N; C: calcd, 57.40; found, 56.9. *Prepared according to the procedure described in Example 4, Step 1.

reactant | 2-chloro-3-[2-(4-chlorophenoxy)ethoxy]pyrazine | ClC1=NC=CN=C1OCCOC1=CC=C(C=C1)Cl | C12H10Cl2N2O2
reactant | 3-aminopyrrolidine | 2.87 mmol, 247 mg | NC1CNCC1 | C4H10N2
product | 2-(4-Chlorophenoxy)ethyl 3-(3-amino-1-pyrrolidinyl)-2-pyrazinyl Ether | NC1CN(CC1)C=1C(=NC=CN1)OCCOC1=CC=C(C=C1)Cl | C16H19ClN4O2
